US06403804B1
Synthesis of (4S,5S)-4-Benzyl-5-Methyl-2-Oxazolidinone
5.5 ml of water was added to 0.50 g (2.40 mmol) of (2S,3S)-2-benzyl-3-hydroxybutanohydrazide (optical purity: >99.9%e.e.; anti/syn>99/1), and the mixture was cooled to 0° C. A 0.30 g (2.88 mmol) of 35% HCl was added thereto dropwise. After the addition, then an aqueous solution of 0.20 g (2.88 mmol) of sodium nitrite dissolved in 1.0 ml of water was further added thereto dropwise slowly. After the reaction mixture was stirred for 1 hour at that temperature, the thus prepared reaction mixture was added to 10 ml of warm water (50° C.) dropwise over 0.5 hour. After the addition, the mixture was further stirred for 1 hour, cooled to room temperature, and then extracted thrice with a 10 ml portion of toluene. The extracted toluene was then concentrated to give 0.33 g of a crude product. The crude product was subjected to column chromatography (hexane/ethyl acetate=1/1 by volume) to obtain 0.25 g (52%) of the title compound. Melting point: 115.5° C. Optical purity: >99.9%e.e. anti/syn>99/1

reactant | (2S,3S)-2-benzyl-3-hydroxybutanohydrazide | 2.40 mmol, 0.50 g | C(C1=CC=CC=C1)[C@H](C(=O)NN)[C@H](C)O | C11H16N2O2
reactant | HCl | 2.88 mmol, 0.30 g | Cl | ClH
reactant | sodium nitrite | 2.88 mmol, 0.20 g | N(=O)[O-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 1.0 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 5.5 ml | O | H2O
product | (4S,5S)-4-Benzyl-5-Methyl-2-Oxazolidinone | 0.25 g, 52% | C(C1=CC=CC=C1)[C@@H]1NC(O[C@H]1C)=O | C11H13NO2
